US06005098
To a stirred solution of 5'-deoxy-2',3'-di-O-acetyl-5-iodocytidine (1.35 g, 3.087 mmol) in CH2Cl2 (15 ml) there was added N,N-diisopropylethylamine (0.537 ml, 3.087 mmol), Cul (58 mg, 0.309 mmol), Pd(PPh3)2Cl2 (60 mg, 0.085 mmol), and trimethylsilyl-acetylene (0.523 ml, 3.704 mmol) at room temperature under Ar. The reaction mixture was then heated to 60° C. After stirring for 2 hours, the mixture was cooled to room temperature. The solvent was removed under reduced pressure, and the residue dissolved in EtOAc (200 ml), washed with 2% aq. EDTA.2Na, water and brine, dried over Na2SO4 and filtered. The filtrate was evaporated under reduced pressure. The crude product was purified by flash chromatography on SiO2 (f2.2×25 cm, eluent: EtOAc) to give 2',3'-di-O-acetyl-5'-deoxy-5-[2-(trimethylsilyl)ethynyl]cytidine as a pale yellow solid. (1.20 g, 95% y.).

reactant | 5'-deoxy-2',3'-di-O-acetyl-5-iodocytidine | 3.087 mmol, 1.35 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C)N1C(=O)N=C(N)C(=C1)I | C13H16IN3O6
reactant | N,N-diisopropylethylamine | 3.087 mmol, 0.537 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trimethylsilyl-acetylene | 3.704 mmol, 0.523 ml | C[Si](C)(C)C#C | C5H10Si
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)2Cl2 | 0.085 mmol, 60 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2',3'-di-O-acetyl-5'-deoxy-5-[2-(trimethylsilyl)ethynyl]cytidine | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C)N1C(=O)N=C(N)C(=C1)C#C[Si](C)(C)C | C18H25N3O6Si
